US06337331B1
To a cold (0° C.), stirred solution of 5-(2-fluorophenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-ylamine (1.30 g, 4.32 mmol) in dimethylformamide (30 ml) under nitrogen was added pyridine (0.46 ml, 5.62 mmol) followed by rac-α-chlorophenylacetyl chloride (0.79 ml, 4.97 mmol). The reaction mixture was stirred at 0° C. for 1 hour and subsequently poured into distilled water (200 ml). The aqueous solution was extracted with ethyl acetate (2×100 ml) and the combined organic extracts were washed with citric acid (100 ml, 10% aqueous), sodium hydrogencarbonate (100 ml, sat. aqueous), water (100 ml), brine (100 ml) and dried (Na2SO4). The solvent was removed in vacuo and the resulting oil was crystallised from hot diethyl ether to afford 2-chloro-N-[5-(2-fluoro-phenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-yl]-2-phenylacetamide (1.514 g, 78%) as a pale solid. δH (400 MHz, CDCl3) 5.37 (1H, s, CHCl), 5.49 (1 H, d, J=14.4, PhSCH2A), 5.61 (1H, d, J=14.4, PhSCH2B), 7.11 (1H, dd, J=11 and 8.6, ArH), 7.24-7.44 (12H, m, ArH), 7.82 (1H, td, J=7.6 and 1.4, ArH), 8.21-8.19 (1H, m, NH); m/z (ES+) 453 (35 ClM+H+) and 455 (37 ClM+H+).

reactant | 5-(2-fluorophenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-ylamine | 4.32 mmol, 1.30 g | FC1=C(C=CC=C1)C1=C(N(N=N1)CSC1=CC=CC=C1)N | C15H13FN4S
reactant | pyridine | 5.62 mmol, 0.46 ml | N1=CC=CC=C1 | C5H5N
reactant | rac-α-chlorophenylacetyl chloride | 4.97 mmol, 0.79 ml | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-chloro-N-[5-(2-fluoro-phenyl)-3-phenylsulfenylmethyl-3H-1,2,3-triazol-4-yl]-2-phenylacetamide | 1.514 g, 78% | ClC(C(=O)NC=1N(N=NC1C1=C(C=CC=C1)F)CSC1=CC=CC=C1)C1=CC=CC=C1 | C23H18ClFN4OS
